US05272270
rel-(1S,2R)-1,2-bis(3'-Benzyloxy-4'-methoxyphenyl)-2-aminoethanol
Mixture: 1.0 g (2.1 mmol) of rel-(S,S)-3,3'-dibenzyloxy-4,4'-dimethoxystilbene oxide, 15 ml of EtoH, abs., 15 ml of ammonia.

reactant | rel-(S,S)-3,3'-dibenzyloxy-4,4'-dimethoxystilbene oxide | 2.1 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@H]1[C@H](C2=CC(=C(C=C2)OC)OCC2=CC=CC=C2)O1 | C30H28O5
reactant | ammonia | 15 ml | N | H3N
product | rel-(1S,2R)-1,2-bis(3'-Benzyloxy-4'-methoxyphenyl)-2-aminoethanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@@H]([C@H](N)C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)O | C30H31NO5
